US08012998B2
g) 2-[(R)-1-[(3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-pyridine
The titled compound was prepared following the general procedure for Mitsunobu reaction using (S)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethanol and 5-Chloro-pyridin-2-ol. ES-MS m/e: 559.2 (M+H+).

reactant | (S)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethanol | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)[C@@H](CO[Si](C)(C)C(C)(C)C)O | C25H35F2NO2Si
reactant | 5-Chloro-pyridin-2-ol | ClC=1C=CC(=NC1)O | C5H4ClNO
product | 2-[(R)-1-[(3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-pyridine | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)[C@H](CO[Si](C)(C)C(C)(C)C)OC1=NC=C(C=C1)Cl | C30H37ClF2N2O2Si
